US04260756
3-Ethyl-6-(2-pyridyl)-1,2,4-triazolo[4,3-b]pyridazine
As for Example 4, a mixture of 1.0 g. of 3-chloro-6-(2-pyridyl)pyridazine, propionic acid hydrazide and 50 ml. of n-butyl alcohol is refluxed for 48 hours to give the product of the Example.

reactant | 3-chloro-6-(2-pyridyl)pyridazine | ClC=1N=NC(=CC1)C1=NC=CC=C1 | C9H6ClN3
reactant | propionic acid hydrazide | C(CC)(=O)NN | C3H8N2O
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 3-Ethyl-6-(2-pyridyl)-1,2,4-triazolo[4,3-b]pyridazine | C(C)C1=NN=C2N1N=C(C=C2)C2=NC=CC=C2 | C12H11N5
